US05185342
Production of (E)-N-methyl-2-[2-(4-bromophenoxy)phenyl]-2-methoxyiminoacetamide (Compound No. 17)
A solution of (E)-N-methyl-2-(2-phenoxyphenyl)-2-methoxyiminoacetamide (500 mg) in carbon tetrachloride (3 ml) was cooled to 0° C., and bromine in carbon tetrachloride (1.27 mmol) was dropwise added thereto. The resulant mixture was stirred at the same temperature for 1 hour, washed with a saturated aqueous sodium hydrogencarbonate solution and extracted with dichloroethane. The solvent was dried and evaporated, and the residue was subjected to HPLC with a mixture of hexane and ethyl acetate to give 200 mg of the objective compound.

reactant | (E)-N-methyl-2-(2-phenoxyphenyl)-2-methoxyiminoacetamide | 500 mg | CNC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C16H16N2O3
reactant | bromine | BrBr | Br2
solvent | carbon tetrachloride | 3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 1.27 mmol | C(Cl)(Cl)(Cl)Cl | CCl4
product | (E)-N-methyl-2-[2-(4-bromophenoxy)phenyl]-2-methoxyiminoacetamide | 200 mg | CNC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC=C(C=C1)Br)=O | C16H15BrN2O3
